US06127541
2-(2-Methylpropylamino)benzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 2-fluorobenzonitrile and isobutylamine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | isobutylamine | C(C(C)C)N | C4H11N
product | 2-(2-Methylpropylamino)benzonitrile | CC(CNC1=C(C#N)C=CC=C1)C | C11H14N2
